US04628057
(3S)-2-[(Benzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 16, (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (21.6 g), K2CO3 (13.8 g), water (550 ml), ethanol (550 ml), carbon disulfide (6 ml) and benzyl bromide (14 ml) are reacted and treated. The residue is purified by silica gel column chromatography (solvent, chloroform:methanol=10:1) to give the title compound (20 g, 52.3%) as powder.

reactant | (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 21.6 g | C1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | K2CO3 | 13.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 550 ml | O | H2O
reactant | benzyl bromide | 14 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | carbon disulfide | 6 ml | C(=S)=S | CS2
solvent | ethanol | 550 ml | C(C)O | C2H6O
product | (3S)-2-[(Benzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 20 g, 52.3% | C(C1=CC=CC=C1)SC(=S)N1CC=2NC3=CC=CC=C3C2C[C@H]1C(=O)O | C20H18N2O2S2
